US09238639B2
B) (6-Hydroxy-7-methyl-1-benzofuran-3-yl)acetic acid
A mixture of 1M NaOH (89 mL) and 4-(chloromethyl)-7-hydroxy-8-methyl-2H-chromen-2-one (4.0 g) was stirred at 100° C. for 1 h. After cooling, the reaction mixture was acidified with 6N HCl. The precipitate was collected by filtration, and washed with water and hexane to give the title compound (2.62 g). The filtrate was extracted with EtOAc. The organic layer was washed with brine, dried over MgSO4, filtered and concentrated in vacuo. The solid was washed with hexane to give the title compound (831.4 mg). Total yield: 3.45 g.

reactant | NaOH | 1M, 89 mL | [OH-].[Na+]
reactant | 4-(chloromethyl)-7-hydroxy-8-methyl-2H-chromen-2-one | 4.0 g | ClCC1=CC(OC2=C(C(=CC=C12)O)C)=O | C11H9ClO3
reactant | HCl | 6N | Cl | ClH
product | (6-Hydroxy-7-methyl-1-benzofuran-3-yl)acetic acid | 2.62 g | OC1=C(C2=C(C(=CO2)CC(=O)O)C=C1)C | C11H10O4
